US07417028B2
4. 2-(((9H-Fluoren-9-yl)methoxy)carbonylamino)-3-(6-bromopyridin-3-yl)propanoic acid hydrochloride
A solution of 1.02 g (1.95 mmol) of (2S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-bromopyridin-3-yl)propanoate in TFA (3.0 mL), protected from the atmosphere by a calcium chloride-filled drying tube was stirred at room temperature for two hours. The reaction mixture was concentrated in vacuo at less than 35° C. and the resulting orange oil was dissolved in 3 mL of dichloromethane to which a solution of 6 mL of 1 M HCl/ether was added. The resulting white solid was filtered and washed with ether to give the title compound as a white powder, 845 mg, 86% yield.

reactant | (2S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-bromopyridin-3-yl)propanoate | 1.95 mmol, 1.02 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)OC(C)(C)C)CC=1C=NC(=CC1)Br | C27H27BrN2O4
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(((9H-Fluoren-9-yl)methoxy)carbonylamino)-3-(6-bromopyridin-3-yl)propanoic acid hydrochloride | 86% yield | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(C(=O)O)CC=1C=NC(=CC1)Br | InChI=1S/C23H19BrN2O4.ClH/c24-21-10-9-14(12-25-21)11-20(22(27)28)26-23(29)30-13-19-17-7-3-1-5-15(17)16-6-2-4-8-18(16)19;/h1-10,12,19-20H,11,13H2,(H,26,29)(H,27,28);1H
